US08859573B2
4{[(5-{[4-Chloro-3-(trifluoromethyl)phenyl]oxy}-2-pyridinyl)methyl]oxy}-1-(3-pyridinylmethyl)-2(1H)-pyrimidinone
The title compound was prepared by a procedure similar to that described for E1 starting from 6-{[(5-{[4-chloro-3-(trifluoromethyl)phenyl]oxy}-2-pyridinyl)methyl]oxy}-2(1H)-pyrimidinone and 3-(chloromethyl)pyridine hydrochloride. LC-MS (ESI): m/z 489 [M+H]+; 2.67 min (ret time).

reactant | 6-{[(5-{[4-chloro-3-(trifluoromethyl)phenyl]oxy}-2-pyridinyl)methyl]oxy}-2(1H)-pyrimidinone | ClC1=C(C=C(C=C1)OC=1C=CC(=NC1)COC1=CC=NC(N1)=O)C(F)(F)F | C17H11ClF3N3O3
reactant | 3-(chloromethyl)pyridine hydrochloride | Cl.ClCC=1C=NC=CC1
product | 4{[(5-{[4-Chloro-3-(trifluoromethyl)phenyl]oxy}-2-pyridinyl)methyl]oxy}-1-(3-pyridinylmethyl)-2(1H)-pyrimidinone | ClC1=C(C=C(C=C1)OC=1C=CC(=NC1)COC1=NC(N(C=C1)CC=1C=NC=CC1)=O)C(F)(F)F | C23H16ClF3N4O3
